*$
*//-----------------------------------------------------------------------//
*//   Part        : EGPD101ELL431MK40H
*//   Date        : 2023/03/03
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD101ELL431MK40H_20deg-C 1 2

C1 4 2 3.25e-04
C2 5 2 7.31e-05
C3 6 2 8.31e-06
R1 3 4 2.88e-02
R2 4 5 1.27e-01
R3 5 6 7.99e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EGPD101ELL431MK40H_-40deg-C 1 2

C1 4 2 2.46e-06
C2 5 2 1.61e-04
C3 6 2 2.26e-04
R1 3 4 1.25e-01
R2 4 5 1.10e-01
R3 5 6 1.98e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EGPD101ELL431MK40H_135deg-C 1 2

C1 4 2 3.89e-04
C2 5 2 2.98e-05
C3 6 2 1.69e-05
R1 3 4 1.24e-02
R2 4 5 2.79e-01
R3 5 6 3.02e+01
L1 1 3 8.00e-09

.ENDS
*$
